US07923450B2
a) [1-(4-Chlorophenyl)-2-oxo-cyclohexyl]-acetonitrile
A solution of 2-(4-chlorophenyl)-cyclohexanone (100 g, 0.48 mol) in N,N-dimethylformamide (0.5 L) was added slowly to a mixture of sodium hydride (13.8 g, 0.78 mol) in N,N-dimethylformamide (0.2 L), the temperature being kept below 40° C. The reaction mixture was stirred at 20-25° C. for 1.5 h when a precipitate was formed. The mixture was diluted with N,N-dimethylformamide (0.2 L), and thereafter, a solution of chloroacetonitrile (43.0 g, 0.57 mol) in N,N-dimethylformamide (0.1 L) was slowly added with cooling over 0.5 h, the temperature being kept below 25° C. The mixture was stirred for 18 h, and then, ethanol (50 mL) was slowly added. The mixture was stirred for 0.5 h and then poured onto ice-water.

reactant | 2-(4-chlorophenyl)-cyclohexanone | 0.48 mol, 100 g | ClC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13ClO
reactant | sodium hydride | 0.78 mol, 13.8 g | [H-].[Na+]
reactant | chloroacetonitrile | 0.57 mol, 43.0 g | ClCC#N | C2H2ClN
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 0.5 L | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.2 L | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.2 L | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.1 L | CN(C=O)C | C3H7NO
product | [1-(4-Chlorophenyl)-2-oxo-cyclohexyl]-acetonitrile | ClC1=CC=C(C=C1)C1(C(CCCC1)=O)CC#N | C14H14ClNO
